US05139565
10 g of 2,3-dichloropyridine, 11.2 g of anhydrous potassium carbonate and 100 ml of dimethylsulfoxide were mixed to obtain a suspension. To this suspension, 10 ml of a dimethylsulfoxide solution of 10.1 g of benzyl mercaptan was dropwise added over a period of about 20 minutes at 110° C. Then, the mixture was reacted at a temperature of from 120 to 130° C. for about 1.5 hours. Thereafter, the reaction product was put into water and extracted with methylene chloride. The methylene chloride layer was dried over anhydrous sodium sulfate. Then, methylene chloride was distilled off under reduced pressure, and the obtained residue was purified by silica gel column chromatography to obtain 12.5 g of oily 2-benzylthio-3-chloropyridine.

reactant | 2,3-dichloropyridine | 10 g | ClC1=NC=CC=C1Cl | C5H3Cl2N
reactant | potassium carbonate | 11.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
reactant | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
reactant | benzyl mercaptan | 10.1 g | C(C1=CC=CC=C1)S | C7H8S
solvent | water | O | H2O
product | 2-benzylthio-3-chloropyridine | 12.5 g | C(C1=CC=CC=C1)SC1=NC=CC=C1Cl | C12H10ClNS
